US04638067
1-Cyclopropyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, Hydrochloride
A solution of 0.57 g (2.0 mmol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.58 ml (4.0 mmol) of 3-[(ethylamino)methyl]pyrrolidine and 10 ml of 3-picoline was heated under reflux for 17 hours. After cooling to room temperature the mixture was filtered and the solid washed with hot methanol to give 0.42 g of the title compound, mp >300° C.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.0 mmol, 0.57 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 3-[(ethylamino)methyl]pyrrolidine | 4.0 mmol, 0.58 ml | C(C)NCC1CNCC1 | C7H16N2
solvent | 3-picoline | 10 ml | N1=CC(=CC=C1)C | C6H7N
product | 1-Cyclopropyl-7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, Hydrochloride | 0.42 g | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)CNCC)F)=O)C(=O)O | InChI=1S/C20H24FN3O3.ClH/c1-2-22-9-12-5-6-23(10-12)18-8-17-14(7-16(18)21)19(25)15(20(26)27)11-24(17)13-3-4-13;/h7-8,11-13,22H,2-6,9-10H2,1H3,(H,26,27);1H
